US05457099
Preparation of 6-acetylamino-4-[2-[4-(1H-indol-3-Yl)-1-piperidinyl]ethyl]-2(1H)-quinolinone (III-21)
To a solution of 6-amino-4-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-2(1H)-quinolinone (III-20) (1 g, 2.59 mmol) in dimethylformamide (8 ml) was added triethylamine (0.7 ml, 5 mmol). To the mixture was added dropwise acetyl chloride (0.2 ml, 2.75 mmol) at 0 ° C. and the mixture was stirred at the same temperature for 15 minutes. The reaction mixture was poured into water and the separated solid was filtered off. After washing with water and drying, the solid was recrystallized from a mixture of methanol, tetrahydrofuran and water to give the desired product (III-21) (900 mg) as pale yellow crystals (yield 81.1%, mp 180°-183° C. (methanol/tetrahydrofuran/water).

reactant | 6-amino-4-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-2(1H)-quinolinone | 2.59 mmol, 1 g | NC=1C=C2C(=CC(NC2=CC1)=O)CCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C24H26N4O
reactant | triethylamine | 5 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.75 mmol, 0.2 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 6-acetylamino-4-[2-[4-(1H-indol-3-Yl)-1-piperidinyl]ethyl]-2(1H)-quinolinone | 900 mg, yield 81.1% | C(C)(=O)NC=1C=C2C(=CC(NC2=CC1)=O)CCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C26H28N4O2
